US06313136B1
Synthesis of 8-(2-ethylbenzylamino)-2,3-dimethylimidazo[1,2-a]pyridine-6-carboxylic acid
8-(2-ethylbenzylamino)-2,3-dimethylimidazo[1,2-a]pyridine-6-carboxamide (1.0 g, 0.0031 mol) and sodium hydroxide (1.2 g, 0.031 mol) were solved in ethanol (95%)(30 ml) and was refluxed overnight. The solvent was evaporated under reduced pressure and to the residue was added water. The pH was adjusted to 7 by addition of conc HCl (2.6 ml) and the solid that precipitated was isolated by filtration, washed with water and dried to give 1.0 g (99%) of the title compound.

reactant | 8-(2-ethylbenzylamino)-2,3-dimethylimidazo[1,2-a]pyridine-6-carboxamide | 0.0031 mol, 1.0 g | C(C)C1=C(CNC=2C=3N(C=C(C2)C(=O)N)C(=C(N3)C)C)C=CC=C1 | C19H22N4O
reactant | sodium hydroxide | 0.031 mol, 1.2 g | [OH-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 8-(2-ethylbenzylamino)-2,3-dimethylimidazo[1,2-a]pyridine-6-carboxylic acid | 1.0 g, 99% | C(C)C1=C(CNC=2C=3N(C=C(C2)C(=O)O)C(=C(N3)C)C)C=CC=C1 | C19H21N3O2
